US06815458B2
1-Trifluoroacetyl-4-piperidone (47AKU-2)
4-Piperidone hydrochloride monohydrate (3.85 g, 25 mmol) and Triethylamine (10.5 ml, 75 mmol) were partly dissolved in 100 ml of dichloromethane and stirred for 10 min. Reaction mixture was then cooled on ice-bath and trifluoroacetic anhydride (7.2 ml, 50 mmol) was slowly added over 10 min. Ice-bath was removed and mixture was stirred overnight. Additional trifluoroacetic anhydride (2 ml) was added and the mixture was stirred for 1 hr. Water (200 ml) was added. Phases were separated and aq. phase was re-extracted with dichloromethane. Combined organic phases were washed with brine, dried over MgSO4 and concentrated (40° C.) giving 4.97 g (100%) 47AKU-2 as yellow crystals. TLC (5% methanol in dichloromethane): Rf=0.8. 1H-NMR (400 MHz, CDCl3): δ=3.87-3.99 (4H, m); 2.54-2.61 (4H, m). 13C-NMR (CDCl3): δ=204.7, 118.0, 115.1, 44.2, 42.8, 41.2,40.5.

reactant | 4-Piperidone hydrochloride monohydrate | 25 mmol, 3.85 g | O.Cl.N1CCC(CC1)=O
reactant | Triethylamine | 75 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 50 mmol, 7.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Trifluoroacetyl-4-piperidone | FC(C(=O)N1CCC(CC1)=O)(F)F | C7H8F3NO2
